US07786108B2
Step 3. Preparation of 5-[(3,5-Bis-trifluoromethyl-benzyl)-(1H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid ethyl ester
Add ethyl chloroformate (0.24 mmol) and pyridine (0.24 mmol) to a dichloromethane (5 mL) solution of (3,5-bis-trifluoromethyl-benzyl)-(7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(1H-tetrazol-5-yl)-amine (0.045 g, 0.08 mmol). After stirring 14 h, wash the reaction with 5% HCl (3 mL), water (3 mL) and brine (3 mL). Dry the organic portion over sodium sulfate and filter. Chromatograph the crude product, eluting with ethyl acetate/hexane (20-60%), to provide the title compound (0.01 g, 20%) as an oil: MS (ES+): 611 (M+H).

reactant | ethyl chloroformate | 0.24 mmol | ClC(=O)OCC | C3H5ClO2
reactant | pyridine | 0.24 mmol | N1=CC=CC=C1 | C5H5N
reactant | (3,5-bis-trifluoromethyl-benzyl)-(7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(1H-tetrazol-5-yl)-amine | 0.08 mmol, 0.045 g | FC(C=1C=C(CN(C2=NN=NN2)C2C3=C(NCCC2)C=C(C(=C3)C)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C22H19F9N6
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-[(3,5-Bis-trifluoromethyl-benzyl)-(1H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid ethyl ester | 0.01 g, 20% | C(C)OC(=O)N1C2=C(C(CCC1)N(C1=NN=NN1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2)C(F)(F)F)C | C25H23F9N6O2
